US07858781B2
(1) 4-Methoxy-benzofuran-3-carbaldehyde, 123
To a solution of 4-methoxy-3-methyl-benzofuran (J. Chem. Res. Synopses (1996), 132) (4 g, 24.66 mmol) in 40 ml of dioxane is added selenium dioxide (3.39 g, 29.59 mmol) and the mixture is heated under reflux for 24 hours. It is then cooled and filtered. The solvent is evaporated and the crude red solid is used as such in the next step.

reactant | 4-methoxy-3-methyl-benzofuran | 24.66 mmol, 4 g | COC1=CC=CC2=C1C(=CO2)C | C10H10O2
reactant | selenium dioxide | 29.59 mmol, 3.39 g | [Se](=O)=O | O2Se
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 4-Methoxy-benzofuran-3-carbaldehyde | COC1=CC=CC2=C1C(=CO2)C=O | C10H8O3
